US08669234B2
A mixture of 2-[5-(7-Bromo-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (300 mg, 0.48 mmol, 1 eq.), 3-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1.1 eq., 530 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (3%, 12 mg), tetrakis(triphenylphosphine)palladium (3%, 17 mg) and 2N potassium carbonate aqueous solution (3.3 eq., 0.8 mL) in 2 mL DME was heated to 80° C. under Argon for 5 hours. The reaction mixture was cooled and diluted in ethyl acetate and washed with saturated sodium bicarbonate solution. The organic layer dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give a yellow foam 3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-dibenzothiophen-3-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (245 mg, yield 70%). LCMS-ESI−: calc'd for C42H46N6O4S: 730.92. Found: 731.2 (M+H+).

reactant | 2-[5-(7-Bromo-dibenzothiophen-3-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.48 mmol, 300 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C=1C=CC2=C(SC3=C2C=CC(=C3)Br)C1 | C24H24BrN3O2S
reactant | 3-[6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 530 mg, 1.1 eq. | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)B3OC(C(O3)(C)C)(C)C)C2 | C24H34BN3O4
reactant | potassium carbonate | 2N, 0.8 mL, 3.3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(6-{7-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3H-imidazol-4-yl]-dibenzothiophen-3-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 245 mg, yield 70% | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C=3C=CC1=C(SC4=C1C=CC(=C4)C=4NC(=NC4)C4N(CCC4)C(=O)OC(C)(C)C)C3)C2 | C42H46N6O4S
